US05302739
Preparation of methyl 6-[1-(N-methoxyimino)propyl]-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 53)
0.62 g of methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-propionylbenzoate, 0.45 g of methoxyamine hydrochloride and 0.53 g of potassium acetate were added to 80 ml of methanol, and were heat-refluxed for 6 hours. The precipitated product was filtered out, and the solvent was distilled off. Water was added to the product, and the product was extracted with ethyl acetate. The product was then washed with water, and was dried with magnesium sulfate anhydride. After distilling off the solvent, the mixture was purified by column chromatography, and the purified product was crystallized with isopropyl ether/ethyl acetate to obtain 0.60 g of the aimed compound (melting point=75° to 77° C.) at a yield of 89.5%.

reactant | methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-propionylbenzoate | 0.62 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)C(CC)=O | C17H18N2O6
reactant | methoxyamine hydrochloride | 0.45 g | Cl.CON
reactant | potassium acetate | 0.53 g | C(C)(=O)[O-].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | methyl 6-[1-(N-methoxyimino)propyl]-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | 0.60 g, yield of 89.5% | CON=C(CC)C1=CC=CC(=C1C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C18H21N3O6
